US06914074B2
tert-Butyl[(3,6-dibromo-8-chloro-2-naphthyl)oxy]dimethylsilane
The title compound was prepared by reacting 3,6-dibromo-8-chloro-2-naphthol (3.00 g, 8.92 mmol) with TBDMS-Cl (1.75 g, 150.7 mmol) according to method F to yield 3.36 g (84%) of a white solid: mp 58-64° C.; 1H NMR (CDCl3): δ 0.34 (6H, s), 1.08 (9H, s), 7.57 (1H, s), 7.62 (1H, d, J=1.72 Hz), 7.75 (1H, d, J=1.24 Hz), 7.97 (1H, s); MS (ESI) m/z333/335/337 (M−H)−.

reactant | 3,6-dibromo-8-chloro-2-naphthol | 8.92 mmol, 3.00 g | BrC=1C(=CC2=C(C=C(C=C2C1)Br)Cl)O | C10H5Br2ClO
reactant | TBDMS-Cl | 150.7 mmol, 1.75 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
product | tert-Butyl[(3,6-dibromo-8-chloro-2-naphthyl)oxy]dimethylsilane | C(C)(C)(C)[Si](C)(C)OC1=CC2=C(C=C(C=C2C=C1Br)Br)Cl | C16H19Br2ClOSi
